US04367238
Ozone gas was introduced into a solution of o-tolyl 2-acetoxy-3-allylphenyl ether (5.64 g) in acetic acid (80 ml) at 15° C. with stirring for 45 minutes. 30% Hydrogen peroxide (4 ml) was added to the solution and allowed to stand overnight at room temperature. Aqueous sodium hydrogen sulfite was added to the solution, and the mixture was extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and then evaporated. The oily residue (4.0 g) was dissolved in a mixture of sodium hydroxide and methanol. The solution was allowed to stand at room temperature for 30 minutes, and methanol was distilled off. The residue was washed with diethyl ether, acidified with dil. hydrochloric acid and then extracted with diethyl ether. The extract was dried over magnesium sulfate and evaporated. The oily residue (2.10 g) was dissolved in acetic anhydride (20 ml), heated on a water bath for 10 minutes and then evaporated. The crystalline residue was recrystallized from methanol to give colorless needles of 7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one (1.10 g). mp 110°-111° C.

reactant | Ozone | O=[O+][O-] | O3
reactant | o-tolyl 2-acetoxy-3-allylphenyl ether | 5.64 g | C(C)(=O)OC1=C(C=CC=C1CC=C)OC=1C(=CC=CC1)C | C18H18O3
reactant | Hydrogen peroxide | 4 ml | OO | H2O2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | 1.10 g | C1(=C(C=CC=C1)OC1=CC=CC=2CC(OC21)=O)C | C15H12O3
